Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
PCP: ___, MD  
Cardiologist: Dr. ___: Dr. ___  

HISTORY OF PRESENT ILLNESS:  
___ CAD s/p 5VCABG (___), prostate cancer s/p hormonal therapy,
currently undergoing XRT who presents for syncope. 

Patient was eating with his daughter when he noted
lightheadedness, diffuse sweating, anxiety and blurry vision 
that
was rapidly followed by LOC and convulsions. When he regained
consciousness he was interactive and alert. There was no loss of
bowel or bladder function. The episode was not preceded by
palpitations, chest pain, SOB. Collateral from daughter in ___ 
who
was witness to episode: "he did not look well and passed out
while sitting upright. Daughter reports that his eyes rolled 
back
and he began to shake. Reports he was unconscious for about 20
seconds. Reports her father was awake and alert right after and
denies any confusion. " 

In the ___ he did have a brief anxious feeling described as
tightness in his throat, but no palpitations. He thinks his HR 
is
baseline 60. This is confirmed with his cardiologist Dr. ___.
Also had a negative stress echo in ___ per Dr. ___.

HR is baseline 60. This is confirmed with his cardiologist Dr.
___. Also had a negative stress echo in ___ per Dr. ___. While
being seen by Cardiology in the ___ patient vomited and felt
much improved; his heart rate was noted to have increased to 100
while this was happening.

In the ___, initial VS were 98.8 56 148/82 16 98%RA.  

Exam notable for: "Normal neuro exam, no murmurs. lungs CTAB."
  
Labs showed: BMP- K 4.4, Cr. 1.1, Glu 177. Trop neg x2, ProBNP
177, lactate 1.8, UA bland, INR 1.2 
 
ECG showed: sinus bradycardia, TWI in III and flattening in aVF,
no signs of ischemia or arrhythmia. 
 
Imaging showed:  
1) NCHCT- No acute intracranial process.  
2) CXR (PA/Lat)- No acute cardiopulmonary abnormality.
  
Received:  
IVF NS 250 mL  
IV Ondansetron 4 mg  
 
Cardiology was consulted and recommended observation with
telemetry, repeat troponins, and repeat EKG in the morning. 
 
Transfer VS were: 98.7 54 135/68 18 100% RA 
  
On arrival to the floor, patient reports that he feels at his
baseline, weakness is improved. He is not currently having chest
pain or SOB, palpitations, nausea. Reports with the radiation
therapy to his prostate he has been urinating very frequently.
Reports this has been ongoing for the last week or 2; helped 
with
Flomax which he requests. No baseline PND, orthopnea, ___.

He reports that Dr. ___ a "clogged vessel" on stress
echo(), and that he will need to undergo a nuclear stress next
month. 

 
Past Medical History:
Prostate cancer- currently undergoing radiation therapy  
S/p CABG by 5 vessels in ___  
S/p bilateral mastoidectomy for recurrent mastoiditis when ___
old.  
S/p appendectomy when ___ yr old.  

 
Social History:
___
Family History:
Mother with MI at ___, father with CHF and probable prostate
cancer
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM:  
=======================
VS:   Tm 98.0 BP  171 / 75 HR 55 RR 18 SPO2 100 2L 
GENERAL: NAD, pleasant, sitting in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, CNII-XII intact, strength and sensation intact to
___ upper and lower extremities, gait not assessed
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

=======================
DISCHARGE PHYSICAL EXAM:  
=======================
VITALS: 97.6 120/70 65 18 98 Ra 
GENERAL: Elderly gentleman sitting up in chair at bedside in 
NAD.
Alert and interactive. Appears younger than stated age. 
HEENT: NCAT. PERRL. EOMI. No facial droop. MMM. Dentition
in good repair.
CV: RRR. Nl s1/s2. No m/r/g
RESP: CTAB. No w/r/r. Not using accessory muscles. 
GI: Soft. NT. ND. +BS
EXT. No c/c/e. No splinter hemorrhages. 
SKIN: Warm and well-perfused. No rash. 
NEURO: AAOx3. CN II-XII intact: PERRL. EOMI. No facial droop or
asymmetry. Sensation to light touch intact on face. Hearing
intact bilaterally. Shoulder shrug ___. Strength ___ in all four
extremities. Sensation to light touch intact in all four
extremities. No pronator drift. 
PSYCH: Appropriate affect 
 
Pertinent Results:
===============
Admission labs
===============
___ 02:20PM BLOOD WBC-7.0 RBC-4.87 Hgb-14.6 Hct-41.3 MCV-85 
MCH-30.0 MCHC-35.4 RDW-11.9 RDWSD-36.7 Plt ___
___ 02:20PM BLOOD Neuts-69.6 Lymphs-18.1* Monos-9.1 Eos-2.0 
Baso-0.6 Im ___ AbsNeut-4.89 AbsLymp-1.27 AbsMono-0.64 
AbsEos-0.14 AbsBaso-0.04
___ 05:48PM BLOOD ___ PTT-27.8 ___
___ 02:20PM BLOOD Glucose-177* UreaN-19 Creat-1.1 Na-140 
K-4.4 Cl-102 HCO3-21* AnGap-17*
___ 02:20PM BLOOD CK-MB-4 proBNP-177
___ 02:20PM BLOOD cTropnT-<0.01
___ 02:20PM BLOOD Calcium-9.8 Phos-2.9 Mg-2.0
___ 02:46PM BLOOD Lactate-1.8

___ 05:06PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:06PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 05:06PM URINE RBC-<1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-0

===============
Pertinent labs
===============
___ 07:10AM BLOOD Glucose-125* UreaN-21* Creat-1.1 Na-143 
K-4.1 Cl-102 HCO3-24 AnGap-17*
___ 07:10AM BLOOD ALT-18 AST-19 AlkPhos-98 TotBili-2.2*
___ 07:10AM BLOOD WBC-7.1 RBC-4.86 Hgb-14.8 Hct-43.0 MCV-89 
MCH-30.5 MCHC-34.4 RDW-12.6 RDWSD-40.4 Plt ___
___ 08:06PM BLOOD cTropnT-<0.01

===============
Discharge labs
===============
___ 06:13AM BLOOD WBC-6.8 RBC-4.83 Hgb-14.7 Hct-42.1 MCV-87 
MCH-30.4 MCHC-34.9 RDW-12.5 RDWSD-39.7 Plt ___
___ 06:13AM BLOOD ___ PTT-28.9 ___
___ 06:13AM BLOOD Glucose-113* UreaN-19 Creat-1.1 Na-146* 
K-4.1 Cl-104 HCO3-24 AnGap-18*

===============
Studies
===============
___: CTA CHEST
FINDINGS: 
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the
subsegmental level without filling defect to indicate a 
pulmonary embolus. The thoracic aorta is normal in caliber 
without evidence of dissection or
intramural hematoma.  Postsurgical changes from prior CABG are 
demonstrated
including sternotomy wires and numerous surgical clips involving 
the
pericardium.  No pericardial effusion is present.  Coronary 
artery
calcifications are extensive.  Great vessels and pulmonary 
arteries are
unremarkable.
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar
lymphadenopathy is present.  No mediastinal mass.
PLEURAL SPACES: No pleural effusion or pneumothorax.
LUNGS/AIRWAYS: Mosaic attenuation may suggest air trapping and 
small airways disease.  Punctate subpleural right upper and 
lower lobe pulmonary nodules are benign-appearing (301:63, 
301:139).  The airways are patent to the level of the segmental 
bronchi bilaterally.
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality.
ABDOMEN:  Included portion of the upper abdomen is unremarkable.
BONES: No suspicious osseous abnormality is seen. There is no 
acute fracture.
IMPRESSION:
1. No evidence of pulmonary embolism or aortic abnormality.
2. Punctate subpleural right upper and lower lobe pulmonary 
nodules.
3. Small airways disease.

___: Non-contrast head CT
IMPRESSION: No acute intracranial process.  

___: CXR (PA/Lat)  
IMPRESSION: No acute cardiopulmonary abnormality. 

===============
Microbiology 
===============
Urine culture (___): NEGATIVE

 
Brief Hospital Course:
SUMMARY: ___ yo M w/ hx of 5-vessel CABG in ___, prostate cancer 
s/p hormonal therapy undergoing XRT who presents after 
syncopizing with pre-syncope symptoms including vision changes, 
dizziness, and anxiety but without witnessed head strike. 

ACUTE/ACTIVE PROBLEMS:
======================
# Syncope
The differential diagnosis for the cause of his syncope is 
broad. The etiology appears to be vasovagal as he has symptoms 
before and was eating in addition to having high vagal tone at 
baseline as evidenced by his resting HRs in the ___. He also has 
been undergoing treatment for prostate cancer which can increase 
vagal tone. Orthostatic hypotension was ruled out with normal 
orthostatic vital signs. Pulmonary embolism was ruled out with 
CT-PE. Acute coronary syndrome was ruled out with no changes in 
EKG and negative trended troponin. Seizure unlikely as patient 
did not have convulsions, loss of bowel/bladder, or post-ictal 
state. Aortic stenosis still needs to be ruled out, but the 
patient can get an outpatient TTE with his Cardiologist, Dr. 
___, as he is seeing him within the next two weeks. 

# Thrombocytopenia
Patient with platelets in 140s. Unclear etiology and unsure of 
baseline before. LFTs within normal limits except t. bili 2.2, 
which he states he has at baseline. We will recommend outpatient 
workup. 

# Coagulopathy
INR 1.2 on admission. Unclear etiology. No hx of liver disease. 
LFTs within normal limits except t. bili 2.2, which he states he 
has at baseline. We will recommend outpatient workup. 

# CAD s/p 5-vessel CABG
Follows with Dr. ___ as outpatient and recently had "blocked 
vessel" per patient report on stress echo and was to get TTE 
repeated this month. Trops negative so far and EKGs negative for 
acute ischemia. Continued home atorvastatin 80 mg PO/NG QAM, 
aspirin 81 mg PO/NG DAILY, and ezetimibe 10 mg PO DAILY. 

CHRONIC/STABLE PROBLEMS:
========================
# Prostate cancer
Patient currently undergoing radiation and hormonal therapy and 
has
ongoing urinary frequency/urgency but without signs of infection 
on urinalysis. 
- Continued tamsulosin 0.4 mg PO daily

# HTN
- Continued amLODIPine 2.5 mg PO/NG DAILY
- Continued Quinapril 10 mg PO/NG DAILY

# NIDDM. Patient not on medication at home

# GERD
- Continued pantoprazole 40 mg PO Q24H

===============
Transitional Issues
===============
[] Obtain TTE to evaluate for aortic stenosis
[] Work-up of thrombocytopenia (Plts 140s) and coagulopathy (INR 
1.2)
[] Work-up of elevated t.bili of 2.2 (patient claims it is 
chronic) 
[] CT chest showed "mosaic attenuation may suggest air trapping 
and small airways disease. Punctate subpleural right upper and 
lower lobe pulmonary nodules are benign-appearing (301:63, 
301:139)."

===========================
Code status: Full, presumed 
Health care proxy chosen: Yes
Name of health care proxy: ___
Relationship: daughter
Phone number: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QAM 
2. Ezetimibe 10 mg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Quinapril 10 mg PO DAILY 
5. amLODIPine 2.5 mg PO DAILY 
6. Vitamin E 400 UNIT PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QAM  
4.  Ezetimibe 10 mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Pantoprazole 40 mg PO Q24H  
7.  Quinapril 10 mg PO DAILY  
8.  Tamsulosin 0.4 mg PO QHS  
9.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses
==================
# Syncope, likely vasovagal
# Thrombocytopenia
# Coagulopathy
# CAD s/p CABG

Secondary diagnoses
==================
# Prostate cancer
# HTN
# NIDDM
# GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  

- You were admitted because you passed out while you were eating 
lunch. You had a work-up to figure out the cause of this. You 
did not have any abnormal rhythms of your heart that were 
observed, you did not have low blood pressure, and you did not 
have any evidence of a blood clot in your lungs. This was likely 
due to something called vasovagal syncope, which may have been 
brought on by eating a meal and with irritation to your bladder 
from radiation.  You should still have an echocardiogram done by 
your Cardiologist to make sure you do not have a tight heart 
valve that caused this episode.

- You were also found to have mildly low platelets, which are 
responsible for helping you to clot your blood. Please follow up 
with your primary care doctor to get repeat labs and to figure 
out the cause of this.  

What should I do after leaving the hospital?  
- Please follow up with your Cardiologist (heart doctor) to get 
an echocardiogram, which is an ultrasound of your heart. 
- Please take caution driving, as it is impossible to predict 
when you may pass out again.  You should make sure that you take 
frequent bathroom breaks as a full bladder can precipitate 
vasovagal syncope.
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  
 
Followup Instructions:
___